US05698575
Example 32: Preparation of 3-benzimidazolylchromone
Benzimidazole (472 mg) and DBU (608 mg) were dissolved in acetonitrile (20 ml), and stirred at room temperature for 1 hour. To the resulting solution, a solution of 2,3-epoxychromone (162 mg) in dimethylformamide (5 ml) was added dropwise, and the whole was stirred for 5 minutes. After ice water was added, the reaction mixture was extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was fractionatedby silica gel column chromatography (ethyl acetate/hexane=1:3) to give the titled compound (122 mg; yield=93%). Melting point: 154° C. Mass spectrum (M+): 262. 1H-NMR(CDCl3, δ ppm): 8.21 (s, 1H, H2), 8.33 (dd, 1H, H5), 7.52 (t, 1H, H6), 7.80 (t, 1H, H7), 7.61 (d, 1H, H8), 8.35 (s, 1H, H2'), 7.33 (m, 3H, H4', 5', 6'), 7.86 (d, 1H, H7').

reactant | Benzimidazole | 472 mg | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | DBU | 608 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 2,3-epoxychromone | 162 mg | O1C=2OC3=CC=CC=C3C(C21)=O | C9H4O3
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-benzimidazolylchromone | 122 mg, yield=93% | N1=C(NC2=C1C=CC=C2)C2=COC1=CC=CC=C1C2=O | C16H10N2O2
